US07291631B2
To a solution of 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(2-nitro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester (0.83 g, 1.68 mmol) dissolved in THF (30 mL) and MeOH (10 mL), LiBH4 (0.37 g, 16.8 mmol) was slowly added. The mixture was stirred at room temperature for 3 hours. The mixture was concentrated in vacuo and redissolved in CH2Cl2 (50 mL). Water (50 mL) was added and the resulting mixture was extracted with CH2Cl2 (4×50 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to give crude N-(4-cyano-2-hydroxymethyl-benzyl)-N-(3,5-dimethyl-pyridin-2-ylmethyl)-2-nitro-benzene-sulfonamide (0.82 g, 78%) as a yellow foam. 1H NMR (CDCl3) δ 2.16 (s, 3H), 2.25 (s, 3H), 4.58 (s, 2H), 4.67 (s, 2H), 4.76 (br s, 1H), 4.88 (s, 2H), 7.10 (s, 1H), 7.36 (m, 2H), 7.50 (m, 1H), 7.65-7.72 (m, 3H), 7.80 (s, 1H), 7.89 (d, 1H, J=7.5 Hz).

reactant | 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(2-nitro-benzenesulfonyl)-amino]-methyl}-benzoic acid methyl ester | 1.68 mmol, 0.83 g | COC(C1=C(C=CC(=C1)C#N)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC1=NC=C(C=C1C)C)=O | C24H22N4O6S
reactant | LiBH4 | 16.8 mmol, 0.37 g | [Li+].[BH4-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | N-(4-cyano-2-hydroxymethyl-benzyl)-N-(3,5-dimethyl-pyridin-2-ylmethyl)-2-nitro-benzene-sulfonamide | 0.82 g, 78% | C(#N)C1=CC(=C(CN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])CC2=NC=C(C=C2C)C)C=C1)CO | C23H22N4O5S
